US08669266B2
(ii) 6-Chloro-4-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid ethyl ester
To a solution of 1.1 g 6-Chloro-4-hydroxy-7-methyl-quinoline-2-carboxylic acid ethyl ester in 25 ml DMF were added 2.7 g of cesium carbonate followed by dropwise addition of a solution of 1.8 g (S)-1-(2-Bromo-acetyl)-pyrrolidine-2-carboxylic acid cyclobutylamide in 25 ml DMF over a period of 3 h. After this time another portion of cesium carbonate (700 mg) and (S)-1-(2-Bromo-acetyl)-pyrrolidine-2-carboxylic acid cyclobutylamide (700 mg) were added over 1.5 h. The mixture was evaporated, diluted with DCM and washed with aqueous LiCl (4%). The crude product obtained after evaporation of the solvent was pure enough for the subsequent transformation. Yield: 3.3 g.

reactant | 6-Chloro-4-hydroxy-7-methyl-quinoline-2-carboxylic acid ethyl ester | 1.1 g | C(C)OC(=O)C1=NC2=CC(=C(C=C2C(=C1)O)Cl)C | C13H12ClNO3
reactant | cesium carbonate | 2.7 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-1-(2-Bromo-acetyl)-pyrrolidine-2-carboxylic acid cyclobutylamide | 1.8 g | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(CBr)=O | C11H17BrN2O2
reactant | cesium carbonate | 700 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-1-(2-Bromo-acetyl)-pyrrolidine-2-carboxylic acid cyclobutylamide | 700 mg | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(CBr)=O | C11H17BrN2O2
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
solvent | DMF | 25 ml | CN(C)C=O | C3H7NO
product | 6-Chloro-4-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-7-methyl-quinoline-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC2=CC(=C(C=C2C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)Cl)C | C24H28ClN3O5
